US04018802
Step E. Preparation of ethyl 8-bromo-12-acetoxyheptadecanoate
A mixture of ethyl 8-carboxy-12-acetoxyheptadecanoate (31.5 g., 0.079 mole), red mercuric oxide (12.8 g., 0.059 mole), and carbon tetrachloride (200 ml.) is stirred at room temperature while bromine (12.6 g., 0.079 mole) is added dropwise during one hour. The resulting mixture is heated at reflux for 1 hour. The mixture is then cooled, filtered, washed with dilute hydrochloric acid, water and brine and dried over sodium sulfate. The solution is evaporated in vacuo to leave the product as a yellow residual oil weighing 24.5 g. The product is purified by chromatography on a column containing 250 g. of silica gel using chloroform as eluting solvent. There is obtained 14.4 g. of purified ethyl 8-bromo-12-acetoxyheptadecanoate, a yellow oil with Rf 0.49 on silica gel thin layer chromatography with chloroform elution. pmr (CDCl3) δ 0.90 (3H,t); 2.03 (3H, s CH3CO); 4.07 (1H, m HCBr); 4.13 (2H, q); 4.92 (1H, m HCO).

reactant | ethyl 8-carboxy-12-acetoxyheptadecanoate | 0.079 mole, 31.5 g | C(=O)(O)C(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C22H40O6
reactant | bromine | 0.079 mole, 12.6 g | BrBr | Br2
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 8-bromo-12-acetoxyheptadecanoate | BrC(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C21H39BrO4
